US07910595B2
5-Benzyloxy-indole-1-carboxylic acid tert-butyl ester
A solution of 5-benzyloxyindole (500 mg, 2.24 mmol) in anhydrous methylene chloride was treated with di-tert-butyl dicarbonate (586.5 mg, 2.69 mmol) and 4-dimethylaminopyridine (55 mg, 0.448 mmol), and the reaction was stirred at room temperature under a nitrogen atmosphere for 15 hours. The solvent was removed by rotary evaporation and the residue purified by silica gel flash chromatography using methylene chloride as eluent to provide the title compound as a colorless oil (682 mg, 94%).

reactant | 5-benzyloxyindole | 2.24 mmol, 500 mg | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | di-tert-butyl dicarbonate | 2.69 mmol, 586.5 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.448 mmol, 55 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Benzyloxy-indole-1-carboxylic acid tert-butyl ester | 682 mg, 94% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C20H21NO3
